US06093718
A mixture of 4,6-dichioropyrimidine (29.5 g), N-benzylpiperazine (44.0 g) and DIPEA (44 ml) was suspended in p-xylene (400 ml) and heated at 138° C. under reflux. After 18 hours the reaction mixture was allowed to cool to room temperature and filtered. The filtrate was evaporated using high vacuum pump apparatus to obtain 1-(benzyl)-4-(4-chloropyrimidin-6-yl)piperazine a brown solid, 60.5 g (105% based on 4,6-dichloropyrimidine);

reactant | 4,6-dichioropyrimidine | 29.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-benzylpiperazine | 44.0 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | DIPEA | 44 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | p-xylene | 400 ml | CC=1C=CC(=CC1)C | C8H10
product | 1-(benzyl)-4-(4-chloropyrimidin-6-yl)piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=NC=N1)Cl | C15H17ClN4
